US04025504
1. 3-Amidinopropionyl chloride hydrochloride
A solution of 1.52 g. (0.01 mole) of 3-amidinopropionic acid hydrochloride in 18 ml. of thionyl chloride is allowed to stir at room temperature overnight. The excess solvent-reactant is then removed under reduced pressure and the product is isolated as a yellow gum, which crystallizes on standing, 1.5 g.

reactant | 3-amidinopropionic acid hydrochloride | 0.01 mole | Cl.C(N)(=N)CCC(=O)O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 3-Amidinopropionyl chloride hydrochloride | Cl.C(N)(=N)CCC(=O)Cl | InChI=1S/C4H7ClN2O.ClH/c5-3(8)1-2-4(6)7;/h1-2H2,(H3,6,7);1H
